US05498624
In a Parr hydrogenation flask, cyclohexenylaniline (46.4 g, 0.247 mol) is dissolved in 30 mL of 3:1 EtOH/AcOH and 10% Pd on carbon (0.5 g) is added. The reaction is shaken under H2 (60 psi) overnight. The mixture is filtered through a pad of celite and concentrated under vacuum. The crude product is dissolved with CH2Cl2 and neutralized with saturated aqueous bicarbonate. The organic layer is washed with water, dried over MgSO4 and concentrated to give a the 4,4-Dimethylcyclohexyl aniline as a light yellow oil (42.2 g, 90%).

reactant | cyclohexenylaniline | 0.247 mol, 46.4 g | C1(=CCCCC1)NC1=CC=CC=C1 | C12H15N
reactant | EtOH AcOH | 30 mL | CCO.CC(=O)O
catalyst | Pd on carbon | 0.5 g | [Pd] | Pd
product | 4,4-Dimethylcyclohexyl aniline | 42.2 g, 90% | CC1(CCC(CC1)NC1=CC=CC=C1)C | C14H21N
